US09371353B2
(2) Synthesis of methyl[4-(3,7-dimethyl-1-octyloxy)]benzoate
Under an argon atmosphere, potassium carbonate (12.5 g, 90.3 mmol) was suspended in anhydrous N,N-dimethylformamide (100 ml), 1-bromo-3,7-dimethyloctane (13.3 g, 60.1 mmol) and methyl (4-hydroxy)benzoate (8.74 g, 57.4 mmol) were added, and the mixture was stirred at 70° C. for 16 hr. The reaction mixture was filtered to remove potassium carbonate. Water (50 ml) was added and the mixture was extracted with hexane (250 ml). The extract was washed successively with 1.0 mol/l aqueous hydrochloric acid solution (100 ml), aqueous sodium hydrogen carbonate solution (100 ml) and saturated brine (100 ml). The obtained organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound (16.1 g, 95.7%) as a colorless oil.

reactant | potassium carbonate | 90.3 mmol, 12.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3,7-dimethyloctane | 60.1 mmol, 13.3 g | BrCCC(CCCC(C)C)C | C10H21Br
reactant | methyl (4-hydroxy)benzoate | 57.4 mmol, 8.74 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | methyl[4-(3,7-dimethyl-1-octyloxy)]benzoate | 16.1 g, 95.7% | COC(C1=CC=C(C=C1)OCCC(CCCC(C)C)C)=O | C18H28O3
